US04999417
1,2,4,5-benzenetetracarboxylic anhydride;
tetrahydrofuran-2,3,4,5-tetracarboxylic acid and 1,2,4,5-cyclohexanetetracarboxylic acid .

reactant | tetrahydrofuran-2,3,4,5-tetracarboxylic acid | O1C(C(C(C1C(=O)O)C(=O)O)C(=O)O)C(=O)O | C8H8O9
reactant | 1,2,4,5-cyclohexanetetracarboxylic acid | C1(C(CC(C(C1)C(=O)O)C(=O)O)C(=O)O)C(=O)O | C10H12O8
product | 1,2,4,5-benzenetetracarboxylic anhydride | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
